US05925656
2-[N-Methyl-N-(3-phenylpropyl)amino]ethanol
The title compound was prepared from 3-phenylpropyl methanesulphonate (4.5 g) and 2-(methylamino)ethanol (16.7 ml) by an analogous procedure to that described in preparation 1.

reactant | 3-phenylpropyl methanesulphonate | 4.5 g | CS(=O)(=O)OCCCC1=CC=CC=C1 | C10H14O3S
reactant | 2-(methylamino)ethanol | 16.7 ml | CNCCO | C3H9NO
product | 2-[N-Methyl-N-(3-phenylpropyl)amino]ethanol | CN(CCCC1=CC=CC=C1)CCO | C12H19NO
